US04900727
N-methylpiperidone (2.8 mol) is added with stirring to a solution of trimethoxybenzene (2.38 mol) in glacial acetic acid (750 ml), the temperature of the reaction mixture being maintained below 25° C. After the addition has ended, hydrogen chloride is bubbled through the reaction mixture, which is heated for 3 hours to 95°-100° C. and then concentrated, and the residue is diluted with water. The aqueous solution is extracted with ether, the ether is separated off and the aqueous layer is rendered alkaline with concentrated sodium hydroxide solution. The precipitate thus obtained is filtered off, washed with water and dried. Recrystallization from petroleum ether (60°-80° C.) gives 500 g of 1-methyl-3-(2,4,6-trimethoxyphenyl)-1,2,3,6-tetrahydropyridine of melting point 118°-122° C.

reactant | N-methylpiperidone | 2.8 mol | CN1C(CCCC1)=O | C6H11NO
reactant | trimethoxybenzene | 2.38 mol | COC=1C(=C(C=CC1)OC)OC | C9H12O3
reactant | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-3-(2,4,6-trimethoxyphenyl)-1,2,3,6-tetrahydropyridine | 500 g | CN1CC(C=CC1)C1=C(C=C(C=C1OC)OC)OC | C15H21NO3
